US08283378B2
In a tube, under nitrogen, 157 mg (0.77 mmol) of 2-isocyanato-1,3-diisopropylbenzene is added to a solution of 168 mg (0.7 mmol) of C-(1-benzenesulfonyl-cyclopentyl)-methylamine in 3.5 ml of dichloromethane. The reaction mixture is stirred at RT for 3 h. The solvent is evaporated with a nitrogen stream. The paste obtained is taken up in heptane (5 mL) for crystallization. The white powder obtained is chromatographed on silica gel (dichloromethane then dichloromethane/methanol, 98/2, v/v). The oil obtained is crystallized from heptane. After filtration and drying, 135 mg of 1-(1-benzenesulfonylcyclopentylmethyl)-3-(2,6-diisopropyl-phenyl)-urea is obtained in the form of a white powder (m.p.=124° C., Yield=44%).

reactant | 2-isocyanato-1,3-diisopropylbenzene | 0.77 mmol, 157 mg | N(=C=O)C1=C(C=CC=C1C(C)C)C(C)C | C13H17NO
reactant | C-(1-benzenesulfonyl-cyclopentyl)-methylamine | 0.7 mmol, 168 mg | C1(=CC=CC=C1)S(=O)(=O)C1(CCCC1)CN | C12H17NO2S
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonylcyclopentylmethyl)-3-(2,6-diisopropyl-phenyl)-urea | 135 mg | C1(=CC=CC=C1)S(=O)(=O)C1(CCCC1)CNC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C25H34N2O3S
